US04756739
5-amino-3-chloro-2-(2,6-dichlorophenoxy)pyridine
6.39 g (20 mmol) of 3-chloro-2-(2,6-dichlorophenoxy)-5nitropyridine were suspended in 7 ml of glacial acetic acid and 40 ml of water, and 5.6 g (0.1 mol) of iron powder were added in portions at room temperature (temperature 50° C.). The mixture was stirred for 1 hour, complete conversion determined by means of TLC, the mixture was filtered through a glass filter frit under suction, and the filter cake was carefully washed with ethyl acetate. The organic phase was washed with water until neutral, dried using MgSO4 and concentrated by evaporation.

reactant | 3-chloro-2-(2,6-dichlorophenoxy)-5nitropyridine | 20 mmol, 6.39 g | ClC=1C(=NC=C(C1)[N+](=O)[O-])OC1=C(C=CC=C1Cl)Cl | C11H5Cl3N2O3
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
solvent | water | 40 ml | O | H2O
catalyst | iron | 0.1 mol, 5.6 g | [Fe] | Fe
product | 5-amino-3-chloro-2-(2,6-dichlorophenoxy)pyridine | NC=1C=C(C(=NC1)OC1=C(C=CC=C1Cl)Cl)Cl | C11H7Cl3N2O
